US04277631
To a solution of 400 mg 3-trimethylsilyloxy-1,4-pentadiene in 3 ml of tetrahydrofuran at -78° under argon was added a solution of 2.3 ml of sec-butyllithium in cyclohexane and the solution stirred for 15 minutes. Then, a solution of 275 mg of 2,6,6-trimethylcyclohexa-2,4-dienone in 1 ml of tetrahydrofuran was added.After 5 minutes, 332 mg of trimethylsilyl chloride in 2 ml of hexamethylphosphoric acid triamide was added and the mixture left for 1 hour at -78°. After working up as in Example 1(a) the crude productmixture was diluted with 20 ml of methanol cooled to 0° and 224 mg of potassium fluoride were added. After 1 hour at 0°-5°, themixture was poured into saturated aqueous NH4Cl solution and extracted with ether. Chromatography (SiO2, toluene) of the evaporated extract gave 329 mg of 1-[3-oxo-pent-4 -en-1-yl]-1-trimethylsilyloxy-2,6,6-trimethylcyclohexa-2,4-diene (56 o/o yield) characteristics as above.

reactant | 3-trimethylsilyloxy-1,4-pentadiene | 400 mg | C[Si](OC(C=C)C=C)(C)C | C8H16OSi
reactant | sec-butyllithium | 2.3 ml | C(C)(CC)[Li]
reactant | 2,6,6-trimethylcyclohexa-2,4-dienone | 275 mg | CC=1C(C(C=CC1)(C)C)=O | C9H12O
reactant | trimethylsilyl chloride | 332 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | potassium fluoride | 224 mg | [F-].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric acid triamide | 2 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | methanol | 20 ml | CO | CH4O
product | 1-[3-oxo-pent-4 -en-1-yl]-1-trimethylsilyloxy-2,6,6-trimethylcyclohexa-2,4-diene | 329 mg | O=C(CCC1(C(=CC=CC1(C)C)C)O[Si](C)(C)C)C=C | C17H28O2Si
